US07390925B2
Step A: Ethyl 3-(methoxyimino)-3-(4-methoxyphenyl)propanoate
A mixture of ethyl 3-(4-methoxyphenyl)-3-oxopropanoate (500 mg) and MeONH2.HCl (207 mg) in ethanol (4 mL) was heated at 80° C. for 2 h. Ethanol was removed in vacuo, and saturated sodium bicarbonate was added to the residue. The aqueous solution was extrated with ethyl acetate (x4), and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated in vacuo to give the title compound as a colorless oil, which was used directly in the Step B. HPLC retention time: 2.02 min (method A). MS (ESI) (M+H)+ 252.14.

reactant | ethyl 3-(4-methoxyphenyl)-3-oxopropanoate | 500 mg | COC1=CC=C(C=C1)C(CC(=O)OCC)=O | C12H14O4
reactant | MeONH2.HCl | 207 mg | CON.Cl
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | Ethyl 3-(methoxyimino)-3-(4-methoxyphenyl)propanoate | CON=C(CC(=O)OCC)C1=CC=C(C=C1)OC | C13H17NO4
